US09376422B2
Step 2: methyl 5-bromo-2-methyl-3-nitrobenzoate
To a stirred solution of 5-bromo-2-methyl-3-nitrobenzoic acid (16 g, 61.54 mmol) in DMF (160 mL), iodomethane (35.72 g, 248 mmol) and sodium carbonate (26.28 g, 248 mmol) were added. Resulting reaction mass was stirred at 60° C. for 8 h. On completion, reaction mass was filtered and inorganic solid residue washed with ethyl acetate. Combined filtrate was concentrated under vacuum till dryness. The residue was re-dissolved in ethyl acetate and washed with 5% sodium bicarbonate solution (700 mL) followed by 5M HCl solution (300 mL). Organic layer was finally washed with brine, dried over sodium sulfate, filtered and concentrated to afford the desired compound (16 g. 94.50%).

reactant | 5-bromo-2-methyl-3-nitrobenzoic acid | 61.54 mmol, 16 g | BrC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6BrNO4
reactant | iodomethane | 248 mmol, 35.72 g | IC | CH3I
reactant | sodium carbonate | 248 mmol, 26.28 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
product | methyl 5-bromo-2-methyl-3-nitrobenzoate | 16 g, 94.50% | BrC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C9H8BrNO4
